data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_135037_1,[C:1]([C:5]([C:2]([H:14])([H:15])[H:16])=[N:8]/[C:4](=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:10])[O:7][H:9])([H:11])([H:12])[H:13]>>[C:1]([C:5]1([C:2]([H:14])([H:15])[H:16])[C@:6]([C:3]([H:17])([H:18])[H:19])([H:10])[C:4]([O:7][H:9])=[N:8]1)([H:11])([H:12])[H:13],41.49092750000605
MR_657159_1,[C@:1]1([O:4][H:7])([H:8])[C@@:2]([N:5]=[O:6])([H:9])[C:3]1([H:10])[H:11]>>[C@@:1]([C:2](=[C:3]([H:10])[H:11])[H:9])([O:4][H:7])([N:5][O:6])[H:8],54.49084499996445
MR_31095_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:10])([H:15])[H:16])([C:4]([H:11])([H:17])[H:18])[N:6]([C:7]([C:5]([H:19])([H:20])[H:21])=[O:8])[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:10])([H:15])[H:16])([C:4]([H:11])([H:17])[H:18])[O:8]/[C:7]([C:5]([H:19])([H:20])[H:21])=[N:6]/[H:9],65.91699249997262
MR_551379_1,[C:1]1(/[C:5]([C:2]([H:13])([H:14])[H:15])=[C:6](\[C:3]([H:16])([H:17])[H:18])[N:7]([H:11])[H:12])([H:10])[C:4](=[C:8]([H:19])[H:20])[O:9]1>>[C:1]1([H:10])=[C:5]([C:2]([H:13])([H:14])[H:15])[C:6]([C:3]([H:16])([H:17])[H:18])([N:7]([H:11])[H:12])[C:4](=[C:8]([H:19])[H:20])[O:9]1,58.27780750003399
MR_465098_0,[C:1]([C:6](=[C:8]([C:4]([H:19])([H:20])[H:23])[C:5]([H:21])([H:22])[H:24])[N:9]=[C:7]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])([H:10])([H:11])[H:12]>>[C:1]([C:6]1=[N:9][C:7]([C:2]([H:13])([H:14])[H:18])([C:3]([H:15])([H:16])[H:17])[C:8]1([C:4]([H:19])([H:20])[H:23])[C:5]([H:21])([H:22])[H:24])([H:10])([H:11])[H:12],43.15944999996674
MR_535998_0,[N:1](=[C:4](/[C:3]1([O:7][H:10])[C:2]([O:6][H:9])=[N:8]1)[N:5]([H:12])[H:13])\[H:11]>>[n:1]1([H:11])[c:2]([O:6][H:9])[n:8][c:3]([O:7][H:10])[c:4]1[N:5]([H:12])[H:13],47.9253124999903
MR_40903_0,[C:1]([C:4]([C:3]([H:13])([H:14])[H:15])=[C:5]([H:16])[H:17])([O:6][C:2]([H:10])([H:11])[H:12])([O:7][H:8])[H:9]>>[C:1](=[C:4](\[C:3]([H:13])([H:14])[H:15])[C:5]([O:6][C:2]([H:10])([H:11])[H:12])([H:16])[H:17])(\[O:7][H:8])[H:9],57.5505349999797
MR_620924_1,[C:1]([n:2]1[c:4](=[O:9])[n:3]([H:11])[c:6]([N:7]([H:12])[H:13])[c:5]1[O:8][H:10])([H:14])([H:15])[H:16]>>[C:1](/[N:2]=[C:5](/[C:6]1([N:7]([H:12])[H:13])[N:3]([H:11])[C:4]1=[O:9])[O:8][H:10])([H:14])([H:15])[H:16],67.15379499998889
MR_231084_0,[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4](=[O:7])[H:12])[H:11])([O:5][H:8])([O:6][H:9])[H:10]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:7][H:9])([H:10])[H:12])[H:11])([O:5][H:8])=[O:6],51.34581499998632
MR_333812_0,[C:1](=[C:2]([N:3]([H:9])[H:10])[N:4]([H:11])[H:12])([O:5][H:8])[O:6][H:7]>>[C:1]1([O:6][H:7])([H:8])[C:2]([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[O:5]1,51.59681500003032
MR_498411_2,[C:1]1([H:11])([H:12])[C:5]([C:3]([H:16])([H:17])[H:18])([C:4](=[C:2]([H:13])[H:15])[N:6]([H:9])[H:10])[N:8]1[C:7]([H:14])([H:19])[H:20]>>[C:1](/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:4](/[C:2]([H:13])([H:14])[H:15])[N:6]([H:9])[H:10])([N:8]=[C:7]([H:19])[H:20])([H:11])[H:12],46.20031499999385
MR_510325_1,[C:1]([C:2]([H:18])([H:19])[H:20])([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C:8](=[C:3]([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])[H:17]>>[C:1](\[C:2]([H:18])([H:19])[H:20])([N:4]([H:9])[H:10])=[C:8](\[C:3]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[N:7]([H:15])[H:16])[H:17],56.84459750001423
MR_1034_0,[C:1]([C:2]([O:3][H:6])=[O:5])([O:4][H:7])([H:8])[H:9]>>[C:1](=[C:2]([O:3][H:6])[O:5][H:9])([O:4][H:7])[H:8],71.7897649999837
MR_219728_0,[C:1]([C:4]([N:2]([C:3]([O:6][H:10])=[O:7])[O:5][H:9])=[O:8])([H:11])([H:12])[H:13]>>[C:1](/[C:4](=[N:2]\[O:5][H:9])[O:8][C:3]([O:6][H:10])=[O:7])([H:11])([H:12])[H:13],42.73777000003264
MR_425444_1,[C:1](=[N:3]\[H:8])(\[O:4][N:2]([H:6])[H:7])[N:5]([H:9])[H:10]>>[C:1](\[N:3]([H:8])[H:9])([O:4][N:2]([H:6])[H:7])=[N:5]/[H:10],45.01747749998401
MR_123267_1,[C:1]([O:6]/[C:3]([C:2]([H:13])([H:14])[H:15])=[C:5](/[N:4]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]1([H:10])([H:11])[C:3]([C:2]([H:13])([H:14])[H:15])([C:5]([N:4]([H:7])[H:8])([H:9])[H:12])[O:6]1,65.58253499999665
MR_630307_1,[C:1]([N:4]([C:2]([H:17])([H:18])[H:19])[O:9][N:6]([H:10])[H:11])(/[C:8](=[C:5](\[C:3]([H:20])([H:21])[H:22])[N:7]([H:12])[H:13])[H:16])([H:14])[H:15]>>[C:1]1([H:14])([H:15])[N:4]([C:2]([H:17])([H:18])[H:19])[C:8]1([C:5]([C:3]([H:20])([H:21])[H:22])([N:7]([H:12])[H:13])[O:9][N:6]([H:10])[H:11])[H:16],50.81432250000845
MR_568354_0,[C:1]([C:3](/[C:4](=[C:5](\[C:2]([H:15])([H:16])[H:17])[H:14])[H:13])([O:8][H:12])[O:9][H:11])(=[O:6])[O:7][H:10]>>[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])([C:4](=[C:3]([O:8][H:12])[O:9][H:11])[H:13])[H:14])(=[O:6])[O:7][H:10],63.18799500001418
MR_102814_0,[C:1]([C:2]([H:12])([H:13])[H:14])([N:3]([C:4]([O:6][H:9])=[O:7])[O:5][H:8])([H:10])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([O:7]/[C:4](=[N:3]\[O:5][H:8])[O:6][H:9])([H:10])[H:11],70.66089249998029
MR_348838_1,[N:1]([N:2]([C:5](=[O:7])[H:13])[H:9])(/[C:3]([N:4]([H:10])[H:11])=[N:6]/[H:12])[H:8]>>[N:1]1([H:8])[N:2]([H:9])[C:3]1([N:4]([H:10])[H:11])[N:6]([C:5](=[O:7])[H:13])[H:12],65.43005249998927
